US05281713
Preparation of 3-(Methoxymethyl)-8-quinolinol
A solution of methanol and sulfuric acid (10.0 g, 0.1 mol) is heated to 65° C., treated with o-aminophenol (4.36 g, 0.04 mol) and o-nitrophenol (2.78 g, 0.02 mol), heated to 70° C., treated with methoxymethacrolein (6.0 g, 0.06 mol) over 40 minutes at 85° to 90° C. and diluted with water. The aqueous mixture is adjusted to about pH 2 with 50% sodium hydroxide solution and filtered. The filtrate is adjusted to about pH 7 with 50% sodium hydroxide solution and extracted with chloroform. The combined organic extracts are concentrated in vacuo to give the title product as a solid which is identified by 1H and 13CNMR spectral analyses.

reactant | sulfuric acid | 0.1 mol, 10.0 g | S(O)(O)(=O)=O | H2O4S
reactant | o-aminophenol | 0.04 mol, 4.36 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | o-nitrophenol | 0.02 mol, 2.78 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | methoxymethacrolein | 0.06 mol, 6.0 g | COC(=O)C(C)=C | C5H8O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 3-(Methoxymethyl)-8-quinolinol | COCC=1C=NC2=C(C=CC=C2C1)O | C11H11NO2
